US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (225 mg, 1.17 mmole) and 3-(trifluoromethyl)benzylamine (0.63 mL, 4.40 mmole) is stirred under N2 at 140° C. for 1 h. The resulting product is chromatographed on silica gel (3-5% EtOH/EtOAc) to give 7-amino-4-[(3-trifluoromethylphenyl)methylamino]pyrido[4,3-d]pyrimidine (0.24 g, 63%) as a light brown solid. 1H NMR (DMSO) δ 9.10 (1H, s), 8.92 (1H, t, J=5.7 Hz), 8.26 (1H, s), 7.71 (1H, s), 7.66 (1H, d, J=7.4 Hz), 7.62 (1H, d, J=7.8 Hz), 7.57 (1H, t, J=7.6 Hz), 6.49 (2H, brs), 6.38 (1H, s), 4.82 (2H, d, J=5.8 Hz).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.17 mmole, 225 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-(trifluoromethyl)benzylamine | 4.40 mmole, 0.63 mL | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | 7-amino-4-[(3-trifluoromethylphenyl)methylamino]pyrido[4,3-d]pyrimidine | 0.24 g, 63% | NC1=CC=2N=CN=C(C2C=N1)NCC1=CC(=CC=C1)C(F)(F)F | C15H12F3N5
